US06211234B1
Ethyl (2,4-dibenzyloxyphenoxy)acetate (3.9 g) is added in small portions to a stirred suspension of lithium aluminium hydride (0.21 g) in dry tetrahydofuran (100 mL) with ice-cooling. The mixture is allowed to warm to room temperature and stirred for a further 30 minutes. The reaction mixture is cooled in an ice-bath and water is added dropwise. After stirring for 1 hour the mixture is filtered through hyflo and the insolubles washed with tetrahydrofuran. Evaporation of the combined filtrate plus washings and crystallisation of the resulting solid from petroleum ether (bp 40-60° C.) containing a little ethyl acetate gives 2-(2,4-dibenzyloxy-phenoxy)ethanol hemihydrate (1.8 g) as a white solid, m.p. 47-52° C. [Elemental analysis:- C,73.3; H,6.25%. Calculated for C22H22O4.0.5H2O:- C,73.5; H,6.45%].

reactant | Ethyl (2,4-dibenzyloxyphenoxy)acetate | 3.9 g | C(C1=CC=CC=C1)OC1=C(OCC(=O)OCC)C=CC(=C1)OCC1=CC=CC=C1 | C24H24O5
reactant | lithium aluminium hydride | 0.21 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(2,4-dibenzyloxy-phenoxy)ethanol hemihydrate | 1.8 g | O.C(C1=CC=CC=C1)OC1=C(OCCO)C=CC(=C1)OCC1=CC=CC=C1.C(C1=CC=CC=C1)OC1=C(OCCO)C=CC(=C1)OCC1=CC=CC=C1 | InChI=1S/2C22H22O4.H2O/c2*23-13-14-24-21-12-11-20(25-16-18-7-3-1-4-8-18)15-22(21)26-17-19-9-5-2-6-10-19;/h2*1-12,15,23H,13-14,16-17H2;1H2
